### PR TITLE
[Merged by Bors] - chore: replace `Fin.castIso` and `Fin.revPerm` with `Fin.cast` and `Fin.rev` for the bump of Std

### PR DESCRIPTION
**Pull request by Komyyy**
Some theorems in `Data.Fin.Basic` are copied to Std at the recent commit in Std.
These are written using `Fin.cast` and `Fin.rev`, so declarations using `Fin.castIso` and `Fin.revPerm` in Mathlib should be rewritten.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -438,84 +438,83 @@ theorem eq_succ_of_ne_zero {n : ℕ} {i : Fin (n + 1)} (hi : i ≠ 0) : ∃ j :
...
-  Involutive.toPerm_involutive _
-#align fin.rev_involutive Fin.revPerm_involutive
+#align fin.coe_rev Fin.val_rev
 
-theorem revPerm_injective : Injective (@revPerm n) :=
-  revPerm_involutive.injective
-#align fin.rev_injective Fin.revPerm_injective
+theorem rev_injective : Injective (@rev n) :=
+  rev_involutive.injective
+#align fin.rev_injective Fin.rev_injective
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:462]: These aligns should all use an `x` subscript, as they no longer align perfectly with the lean3 version.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:462]: (or we should label this after-port, since it's a refactor)

**Comment by Ruben-VandeVelde** [comment]
Are these changes improvements?

**Comment by Komyyy** [comment]
@Ruben-VandeVelde Recently, the definitions like `Fin.cast` & `Fin.rev` are moved to Std and the types of `Fin.cast` & `Fin.rev` changed from `OrderIso` & `Equiv.Perm` to functions both. To prevent confusions, `Fin.cast` & `Fin.rev` and these related theorems are rewritten to `Fin.castIso` and `Fin.revPerm`. So the current Mathlib has few theorems about `Fin.cast` & `Fin.rev`.
This PR rewrites the related theorems back to `Fin.cast` & `Fin.rev`.

**Comment by eric-wieser** [comment]
I think this change is probably a good thing given that Std4 changed in the way it did, as the canonical form should usually be the lowest-common-denominator of all available bundlings.

File: Mathlib/Algebra/BigOperators/Fin.lean [hunk 2]
```diff
@@ -188,11 +188,11 @@ theorem prod_Ioi_succ {M : Type _} [CommMonoid M] {n : ℕ} (i : Fin n) (v : Fin
...
 @[to_additive]
 theorem prod_congr' {M : Type _} [CommMonoid M] {a b : ℕ} (f : Fin b → M) (h : a = b) :
-    (∏ i : Fin a, f (castIso h i)) = ∏ i : Fin b, f i := by
+    (∏ i : Fin a, f (cast h i)) = ∏ i : Fin b, f i := by
   subst h
   congr
-#align fin.prod_congr' Fin.prod_congr'
-#align fin.sum_congr' Fin.sum_congr'
+#align fin.prod_congr' Fin.prod_congr'ₓ
+#align fin.sum_congr' Fin.sum_congr'ₓ
```
Comment (semorrison) [inline Mathlib/Algebra/BigOperators/Fin.lean:195]: Don't add `\_x` here.

Comment (semorrison) [reply Mathlib/Algebra/BigOperators/Fin.lean:195]: And throughout below.

File: Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean [hunk 3]
```diff
@@ -73,15 +73,15 @@ theorem decomposition_Q (n q : ℕ) :
...
+          q'.rev_eq hnaq', neg_neg]
         rfl
       · ext ⟨i, hi⟩
         simp only [Nat.succ_eq_add_one, Nat.lt_succ_iff_lt_or_eq, Finset.mem_univ,
           forall_true_left, Finset.mem_filter, lt_self_iff_false, or_true, and_self, not_true,
           Finset.mem_erase, ne_eq, Fin.mk.injEq, true_and]
         aesop
 set_option linter.uppercaseLean3 false in
-#align algebraic_topology.dold_kan.decomposition_Q AlgebraicTopology.DoldKan.decomposition_Q
+#align algebraic_topology.dold_kan.decomposition_Q AlgebraicTopology.DoldKan.decomposition_Qₓ
```
Comment (semorrison) [inline Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean:84]: Lots more!

**Comment by jcommelin** [comment]
@semorrison Could you please take a look at this PR?

File: Mathlib/Data/Fin/Basic.lean [hunk 4]
```diff
@@ -346,86 +346,61 @@ theorem pos_iff_ne_zero' [NeZero n] (a : Fin n) : 0 < a ↔ a ≠ 0 := by
...
 #align fin.rev_order_iso Fin.revOrderIso
 #align fin.rev_order_iso_apply Fin.revOrderIso_apply
 #align fin.rev_order_iso_to_equiv Fin.revOrderIso_toEquiv
 
 @[simp]
-theorem revOrderIso_symm_apply (i : Fin n) : revOrderIso.symm i = OrderDual.toDual (revPerm i) :=
+theorem revOrderIso_symm_apply (i : Fin n) : revOrderIso.symm i = OrderDual.toDual (rev i) :=
   rfl
-#align fin.rev_order_iso_symm_apply Fin.revOrderIso_symm_apply
+#align fin.rev_order_iso_symm_apply Fin.revOrderIso_symm_applyₓ
```
Comment (semorrison) [inline Mathlib/Data/Fin/Basic.lean:403]: Please remove *all* the `\_x`s. They are not helpful.

File: Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean [hunk 5]
```diff
@@ -102,9 +102,9 @@ variable {X} {n : ℕ} {Z Z' : C} (f : MorphComponents X n Z) (g : X' ⟶ X) (h
 
 /-- The morphism `X _[n+1] ⟶ Z ` associated to `f : MorphComponents X n Z`. -/
 def φ {Z : C} (f : MorphComponents X n Z) : X _[n + 1] ⟶ Z :=
-  PInfty.f (n + 1) ≫ f.a + ∑ i : Fin (n + 1), (P i).f (n + 1) ≫ X.δ i.revPerm.succ ≫
-    f.b (Fin.revPerm i)
-#align algebraic_topology.dold_kan.morph_components.φ AlgebraicTopology.DoldKan.MorphComponents.φ
+  PInfty.f (n + 1) ≫ f.a + ∑ i : Fin (n + 1), (P i).f (n + 1) ≫ X.δ i.rev.succ ≫
+    f.b (Fin.rev i)
+#align algebraic_topology.dold_kan.morph_components.φ AlgebraicTopology.DoldKan.MorphComponents.φₓ
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean:107]:
```suggestion
#align algebraic_topology.dold_kan.morph_components.φ AlgebraicTopology.DoldKan.MorphComponents.φ
```
These `ₓ` are not needed in the align statements. Because we in fact want mathport translation to pick up on exactly these renames.
Could you please remove them throughout?

**Review by jcommelin — COMMENTED** [review]
One comment (applies in several places). Otherwise LGTM

Thanks for this PR!

bors d+

File: Mathlib/Data/Fin/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:403]: @digama0, do you agree with this?

File: Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/AlgebraicTopology/DoldKan/Decomposition.lean:107]: Mathport will still translate correctly in the presence of ₓ; it just leaves it as a marker in the output translation to indicate a place where the replacement is not an exact match.
